* C:\Users\GrzegorzGajoch\Desktop\RV901-cnc\sim\pwm-analog.asc
V1 12 0 12
V2 0 -12 12
R4 N007 N006 10k
C2 N007 0 4.7µ
V4 N006 0 PULSE(0 5 0 100n 100n 1m 2m)
R5 N001 N003 5k
R6 N002 N001 10k
XU4 0 N001 12 -12 N002 LT1498
XU2 N007 N003 12 -12 N003 LT1498
R7 N011 N010 10k
C3 N011 0 4.7µ
V5 N010 0 PULSE(0 5 0 100n 100n 1m 2m)
XU5 N011 N008 12 -12 N009 LT1498
R10 N008 0 10k
R11 N009 N008 10k
R13 N004 N002 10k
R14 N004 N009 10k
XU3 0 N004 12 -12 N005 LT1498
R15 N005 N004 10k
C5 N009 N008 4.7µ
C1 N002 N001 4.7µ
C4 N005 N004 4.7µ
.tran 500m startup
.lib LTC.lib
.backanno
.end
